US07211573B2
5.00 g (24.4 mmol) (S)-2-tert-Butoxycarbonylamino-3-hydroxy-propionic acid in 5 ml dimethylformamide were added to a suspension of 2.25 g (51.7 mmol) sodium hydride (55%) in 5 ml dimethylformamide at 0° C. The suspension was stirred for 1 hour and then 4.5 ml (26.8 mmol) 2,5-difluoro-nitrobenzene was added. After additional 3 hours of stirring at 0° C. the mixture was poured on ice/water. The ph was adjusted to 1 by adding 7 ml 25% aqueous hydrochloric acid. Extraction with ethylacetate and chromatography on silicagel with ethylacetate/heptane 1:1 yielded 4.35 g (52%) (S)-2-tert-butoxycarbonylamino-3-(4-fluoro-2-nitro-phenoxy)-propionic acid as yellow solid, MS m/e (%): 343.0 (M−H+, 100).

reactant | (S)-2-tert-Butoxycarbonylamino-3-hydroxy-propionic acid | 24.4 mmol, 5.00 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CO | C8H15NO5
reactant | sodium hydride | 51.7 mmol, 2.25 g | [H-].[Na+]
reactant | 2,5-difluoro-nitrobenzene | 26.8 mmol, 4.5 ml | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | hydrochloric acid | 7 ml | Cl | ClH
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (S)-2-tert-butoxycarbonylamino-3-(4-fluoro-2-nitro-phenoxy)-propionic acid | 4.35 g, 52% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COC1=C(C=C(C=C1)F)[N+](=O)[O-] | C14H17FN2O7
